** sch_path: /home/designer/shared/LC_VCO_FPLL/xschem/PHASE_FREQ_DET.sch
.subckt PHASE_FREQ_DET FREF UP VDD GND FDIV DN
*.PININFO UP:O FREF:I VDD:B GND:B DN:O FDIV:I
* noconn #net2
x1 net1 UP FREF VDD nRST VDD VSS sg13g2_dfrbp_2
x2 DN net2 FDIV VDD nRST VDD VSS sg13g2_dfrbp_2
x3 nRST net1 DN VDD VSS sg13g2_nand2_2
.ends

* expanding   symbol:  sg13g2_dfrbp_2.sym # of pins=5
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_dfrbp_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_dfrbp_2.sch
.subckt sg13g2_dfrbp_2 Q Q_N CLK D RESET_B VDD VSS

*.PININFO D:I RESET_B:I CLK:I Q:O Q_N:O
MM1 Db D net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net12 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM3 net2 clkneg net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM4 net11 net3 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM5 net3 net2 net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM6 net7 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM7 Q_N net2 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM8 net1 net2 VSS VSS sg13_lv_nmos w=640.00n l=130.00n ng=1
MM9 Q net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM10 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM11 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM12 Db clkneg net4 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM13 net4 clkpos net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM14 net10 net5 net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM15 net6 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM16 net5 net4 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM17 net5 clkpos net2 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM18 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM19 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM20 net9 net3 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM21 net2 clkpos net9 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM22 net3 net2 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM23 net3 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM24 Q_N net2 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM25 net1 net2 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM26 Q net1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM27 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM28 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM29 Db clkpos net4 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM30 net8 net5 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM31 net4 clkneg net8 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM32 net4 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM33 net5 net4 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM34 net5 clkneg net2 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_nand2_2.sym # of pins=3
** sym_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_nand2_2.sym
** sch_path: /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_nand2_2.sch
.subckt sg13g2_nand2_2 Y A B VDD VSS

*.PININFO Y:O B:I A:I
MM1 Y A net1 VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MM2 net1 B VSS VSS sg13_lv_nmos w=1.44u l=130.00n ng=2
MM3 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
MM4 Y B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends

.GLOBAL VDD
.GLOBAL GND
